US05912377
To 50.01 g (337.4 mmol) of 1-methoxy-4-(2-propenyl)benzene (Aldrich Chemical Company, Milwaukee, Wis.) dissolved in 300 mL of anhydrous methylene chloride was added dropwise 375 mL (375 mmol) of 1.0M boron tribromide (Aldrich) in methylene chloride. The reaction was run under nitrogen at room temperature and the mixture was stirred for 1 hour. The mixture was poured over 1000 mL of crushed ice, stirred for 5 minutes, and transferred to a separatory funnel. The organic layer was drained and saved. The boron salts were transferred to a filter containing Celite™ (Aldrich Chemical Co., Milwaukee, Wis.) and the filter containing the salts was washed with portions of methylene chloride and then water. The filtrate was transferred to a separatory funnel and the organic and aqueous layers were separated. The aqueous layer was extracted with four 100-mL portions of methylene chloride. The methylene chloride solutions were pooled, dried over anhydrous magnesium sulfate, and filtered. The solvent was removed under vacuum to yield 25.27 g (56%) of crude 4-(2-propenyl)phenol. The crude product was distilled twice at reduced pressure to yield 20.34 g (45%) of 4-(2-propenyl)phenol. The NMR data was consistent with that reported by Rajashekhar and coworkers (J. Biol. Chem. 1984, 259, 6925).

reactant | 1-methoxy-4-(2-propenyl)benzene | 337.4 mmol, 50.01 g | COC1=CC=C(C=C1)CC=C | C10H12O
reactant | boron tribromide | 375 mmol, 1.0M, 375 mL | B(Br)(Br)Br | BBr3
reactant | boron | [B] | B
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-propenyl)phenol | 25.27 g, 56% | C(C=C)C1=CC=C(C=C1)O | C9H10O
